US08470841B2
53a 1-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-4-methylpentan-3-one O-benzyloxime
1-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-4-methylpentan-3-one (310 mg, 0.947 mmol) was stirred with O-benzylhydroxylamine hydrochloride (181 mg, 1.14 mmol) and pyridine (0.92 ml, 1.14 mmol) in 5 ml of ethanol at room temperature for 18 h. The reaction mixture was concentrated and further reacted without purification. Yield: 310 mg, M+H+: 433.26.

reactant | 1-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-4-methylpentan-3-one | 0.947 mmol, 310 mg | C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C(C)C)=O | C20H25NO3
reactant | O-benzylhydroxylamine hydrochloride | 1.14 mmol, 181 mg | Cl.C(C1=CC=CC=C1)ON
reactant | pyridine | 1.14 mmol, 0.92 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-4-methylpentan-3-one O-benzyloxime | C(C1=CC=CC=C1)ON=C(CCC1=CC=C(C=C1)OC=1C=NC(=CC1)OC(C)C)C(C)C | C27H32N2O3
